US08877760B2
A mixture of (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-2-phenylacetamide (81 mg, 0.281 mmol), 6-aminoquinoline (60 mg, 0.416 mmol), K2CO3 (100 mg, 0.724 mmol), BINAP (25 mg, 0.040 mmol) and Pd(OAc)2 (15 mg, 0.066 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 110 C for 20 h. The mixture was concentrated in vacuo. The residue was purified by HPLC to give (R)-2-(5-cyano-6-(quinolin-6-ylamino)pyrazin-2-ylamino)-2-phenylacetamide (15 mg).

reactant | (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-2-phenylacetamide | 0.281 mmol, 81 mg | ClC1=C(N=CC(=N1)N[C@@H](C(=O)N)C1=CC=CC=C1)C#N | C13H10ClN5O
reactant | 6-aminoquinoline | 0.416 mmol, 60 mg | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | K2CO3 | 0.724 mmol, 100 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | BINAP | 0.040 mmol, 25 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.066 mmol, 15 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-2-(5-cyano-6-(quinolin-6-ylamino)pyrazin-2-ylamino)-2-phenylacetamide | 15 mg | C(#N)C=1N=CC(=NC1NC=1C=C2C=CC=NC2=CC1)N[C@@H](C(=O)N)C1=CC=CC=C1 | C22H17N7O
